US05159114
A solution of 4-(decylthio)bromobenzene (32.9 g) in dry tetrahydrofuran (100 ml) was added over about 30 minutes to a stirred, refluxing suspension of magnesium turnings (2.64 g) and one crystal of iodine in dry tetrahydrofuran (100 ml). The mixture was then stirred at reflux for 2 hours after which it was cooled to -70° C. Carbon dioxide was passed through the stirred solution at -70° C. for about 2 hours. The solution was warmed to room temperature and was then poured into a mixture of ice and water (1.251). Hydrochloric acid was added to bring the pH to 1, the precipitate was collected and washed with water, dried and then crystallized from cyclohexane to yield 4-(decylthio)benzoic acid (20.29 g) in the form of white crystals, m.p. 108°-109° C. [Elemental analysis: C,69.2; H,8.9; S,11.1%; calculated: C,69.34; H,8.9; S,10.88%].

reactant | 4-(decylthio)bromobenzene | 32.9 g | C(CCCCCCCCC)SC1=CC=C(C=C1)Br | C16H25BrS
reactant | magnesium | 2.64 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | Carbon dioxide | C(=O)=O | CO2
reactant | Hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 4-(decylthio)benzoic acid | 20.29 g | C(CCCCCCCCC)SC1=CC=C(C(=O)O)C=C1 | C17H26O2S
